Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
epigastric pain
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ asthma/COPD (not on home oxygen), CAD s/p multiple 
STEMI/NSTEMIs, CHF (last EF 39%, ___, and HTN, presents 
with epigastric pain.

Epigastric pain since this morning, moderate, sharp/achy, RUQ, 
poor PO intake for several days. Denies fever. No n/v. Has 
baseline abdominal distention, unchnaged

In ED:
VS: afeb, HR 87, 175/85, 99% RA
ED Exam: Diffuse ab TTP
Labs: wbc 12, hb 12, Na 132, Cl 90, Cr 1.1, trop 0.03 --> 0.02,
lactate 2.3 --> 1.5; UA few bact, no leuk, wbc
Imaging: CT showing likely cholecystitis with obstructing stone
Received: duoneb x1, morphine 4, LR 1L, Lasix 20 x1 IV,
CTX/flagyl
Consult: ACS says poor surg candidate, rec HIDA and possible 
perc chole per ___

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION:

GENERAL: Alert and in no apparent distress; frail appearing 
older woman
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Expiratory wheezes bilaterally; Breathing is non-labored
GI: Abdomen soft, mild-moderately distended (baseline, per 
daughter), mildly tender to palpation in epigastrum, RUQ.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam:
T 97.9, BP 120 / 77, HR 87, RR 16, O2 93% RA
General - a bit uncomfortable appearing but resting in bed
HEENT - moist oral mucosa, no op lesion
___ - rrr, s1/2, no murmurs
Lungs - cta b/l from anterior, no w/r/r
GI - soft, non tender, non distended +bowel sounds
Ext - pitting edema b/l ___ with tenderness to palpation of legs, 
no cyanosis
Skin - warm, dry, no rashes
Psych - calm, appropriate 
GU - foley 
 
Pertinent Results:
ADMISSION LABS:
___ 08:12PM BLOOD WBC-12.4* RBC-4.07 Hgb-12.3 Hct-35.6 
MCV-88 MCH-30.2 MCHC-34.6 RDW-14.2 RDWSD-46.0 Plt ___
___ 08:12PM BLOOD Neuts-87.1* Lymphs-5.6* Monos-6.7 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.77* AbsLymp-0.69* 
AbsMono-0.83* AbsEos-0.00* AbsBaso-0.02
___ 08:12PM BLOOD ___ PTT-32.0 ___
___ 08:12PM BLOOD Glucose-156* UreaN-12 Creat-1.1 Na-132* 
K-3.7 Cl-90* HCO3-27 AnGap-15
___ 08:12PM BLOOD ALT-25 AST-23 AlkPhos-138* TotBili-0.5
___ 08:12PM BLOOD proBNP-7102*
___ 08:12PM BLOOD cTropnT-0.03*
___ 08:12PM BLOOD Lipase-33
___ 08:12PM BLOOD Albumin-4.6 Calcium-9.8 Phos-2.5* Mg-1.5*
___ 08:16PM BLOOD Lactate-2.3*

MICRO:
___ urine culture MIXED BACTERIAL FLORA CONSISTENT WITH 
CONTAMINATION FROM SKIN OR GENITALS
___ blood culture NO GROWTH
___ blood culture NO GROWTH

HIDA ___: Nonvisualization of the gallbladder on 4 hour delayed 
images
compatible with cystic duct obstruction corroborating the CT 
diagnosis of acute
cholecystitis.

CT: 1. Findings highly concerning for acute calculous 
cholecystitis.  If
clinically equivocal, recommend HIDA scan.
2. The common bile duct is borderline to mildly dilated size for 
patient age,
but appears more prominent than one year prior.  No obstructing 
process
identified.  Could consider MRCP to assess for 
choledocholithiasis.
3. Limited assessment bibasilar opacities due to respiratory 
motion artifact,
likely atelectasis.
4. A left adnexal cyst has decreased in size.

CXR ___:
In comparison with the study ___, the cardiomediastinal 
silhouette is stable and there is minimal if any vascular 
congestion. Mild atelectatic changes are seen at the bases, but 
no evidence of acute focal consolidation.  definite focal 
consolidation.

V/Q ___:
Study is limited without a corresponding ventilation study and
pulmonary embolism cannot be ruled out.  However, the decrease 
in the left lower
lobe is typical for cardiomegaly and the decrease on the right 
base is not
particularly suggestive of pulmonary embolism.

CXR ___:
Compared to chest radiographs since ___ most recently 
___ through
___.
 
Moderate to severe cardiomegaly is chronic.  Lungs grossly 
clear.  No
pulmonary edema.  No pleural abnormality.
 
Severe narrowing of the lower trachea varies on multiple 
radiographs, an indication of tracheomalacia.  
RECOMMENDATION(S):  Clinical assessment for tracheomalacia.

# Abd/Pelvic CT (___):  
1. Dilated gallbladder, with minimal adjacent stranding 
appearing improved since the ___ CT.  However, there are 
small gallstones present, and there is a suspected stone within 
the distal CBD (series 2, image 29). 2. New small bilateral 
pleural effusions. 3. Small hiatal hernia.
 
Brief Hospital Course:
Ms. ___ is a ___ ___ speaking female with 
history of asthma/COPD (not on home oxygen), CAD s/p multiple 
STEMI/NSTEMIs on Plavix, CHF (last EF 39%, ___, atrial 
fibrillation (previous on apixaban but discontinued by her 
outpatient cardiologist) and HTN, who presented with acute 
calculus cholecystitis.

# Goals of care:
Ultimately, focus is comfort and quality of life. Held multiple 
family meetings throughout admission in light of frailty and 
significant medical illness with multiple complications during 
her stay. Patient was made DNAR/DNI and discharged home with 
hospice care. All non-essential meds were discontinued. 

#Acute cholecystitis: Presented with pain, leukocytosis. She was 
started on empiric antibiotics with ceftriaxone and 
metronidazole, and finished course (___). She remained 
hemodynamically stable and with signs of improvement on 
antibiotics alone. However, in the latter portion of the 
hospitalization, she noted increased pain.  In setting of 
leukocytosis (and persistently distended GB), decision was to 
give low dose chronic augmentin.  She was considered poor 
surgical risks given frailty, extensive CAD Hx. Percutaneous 
gallbladder drainage considered as an alternative to surgery, 
however decision to do this was deferred in light of clinical 
improvement on medical therapy and overall goals of care. ACS 
signed off, patient can follow up in ___ clinic: ___.  
Repeat CT scan showed no worsening of gall bladder findings.

___: Most likely pre-renal. Initial creatinine up to 2.1 She 
was initially hydrated with IV fluids and home diuretics held. 
Creatinine on day of discharge 1.1 and plan for diuretics is 
furosemide 80 mg PO daily. Her Lasix was resumed as outlined 
below. 

#History of chronic asthma/COPD:
#Acute asthma exacerbation:
Follows with Dr. ___. Note that in review of records, 
Advair was discontinued in ___ due to concerns that 
patient wasn't using device properly/getting adequate benefit 
from this. On ___, chest x-ray showed severe tracheal stenosis, 
consistent with possible diagnosis of tracheomalacia. Discussed 
with family that broncoscopy for official diagnosis is not 
recommended due to likely need for intubation, and extremely 
high risk of not being able to be extubated. Resumed home ICS 
upon discharge given her goals of care are comfort. Rx for 
saline and albuterol nebulizer solutions were provided (meds to 
bed) prior to discharge. 

#Atrial fibrillation (w/ intermittent RVR):
Outpatient cardiologist discontinued apixaban last ___. Rates 
initially going up to the 150s intermittently iso agitation 
and/or dyspnea, however became more stable with uptitration of 
metoprolol to max dose of 200mg daily. Metoprolol discontinued 
upon discharge to minimize non essential meds. If symptomatic, 
can resume. 

#Hypertension:
Metoprolol discontinued above. Held losartan in setting ___ 
and ultimately discontinued as her goals of care will be comfort 
and not titration of BP meds. 

# Acute on chronic HFrEF:  During the course of the hospital, 
she had net I>O of ___ L.  In addition, she had markedly 
elevated BNP to 30,000 and significant wheezing.  She was given 
lasix 40 mg IV with good response. She will be discharged home 
on PO Lasix 80 mg daily, with a goal of Lasix to provide 
comfort.

# Severe hyponatremia; During the hospitalization, her Na 
nadired to 114.  This occurred while being volume overloaded.  
Urine Na <5.  Unusually, developed in setting of Lasix and brisk 
diuresis.  It was believed to be presumably ___ to net body Na 
stores low and solute/solvent imbalances and also losartan (now 
d/c'd).  She was restricted in liquids and placed on NaCl tables 
and lasix PO.  Sodium stabilized at 129 by the time of 
discharge. As above, since goals of care are consistent with 
hospice, this was not pursued. 

#Asymptomatic bacteriuria: no urinary symptoms, antibiotics as 
above

#Type 2 NSTEMI: mild troponin leak in setting of infection. 
Peaked at 0.03
#CAD: Discontinued home Plavix, statin, imdur, metoprolol, given 
goals of care
#Afib: Outpatient cardiologist discontinued apixaban last ___
#HTN: Discontinue home losartan, metoprolol, imdur
#psych: Cont home mirtazapine - can be d/c by hospice if felt 
necessary but would use to stimulate appetite/nutrition 
#GERD: Cont home omeprazole - can be discontinued if felt not 
helping 
#Pain: Rx home with morphine oral concentrate and Ativan 
solution. Unfortunately morphine oral concentrate required a 
prior auth and the patient was ready for discharge. Spoke to 
hospice agency who noted that comfort kit would arrive tomorrow, 
and as a bridge to receiving it, would send home with Rx for 
morphine ___ 15mg - dir take ___ tab q6hrs for pain. Reviewed 
with the family to crush it and put it in some applesauce, and 
start with ___ dose as that would more closely mirror her 
current dose of 2mg. As noted, comfort kit will arrive tomorrow. 

#Code status: DNR, DNI, DNH. MOLST filled with HCP prior to 
discharge ___. 
#Dispo: discharge home with hospice. Shifting focus of care to 
comfort, therefore all nonessential meds were discontinued, and 
to facilitate minimizing her pill burden. She would benefit from 
diuretic and indefinite antibiotics to minimize discomfort. 
Plan of care discussed with the patient's family (multiple 
family members including HCP) present at bedside before 
discharge. 

PCP: notified 
___ spent: 55 minutes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
3. Atorvastatin 80 mg PO QPM 
4. Calcium Carbonate 600 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 300 mg PO BID 
8. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
9. Losartan Potassium 25 mg PO DAILY 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Mirtazapine 15 mg PO QHS 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Omeprazole 40 mg PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
15. Senna 8.6 mg PO QHS:PRN Constipation - First Line 
16. Furosemide 80 mg PO DAILY 
17. ketotifen fumarate (bulk) 1 drop each eye BID 
18. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
19. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing 
20. budesonide 90 mcg/actuation inhalation TID 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN wheezing 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inh q2hrs prn 
Disp #*14 Vial Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*0 
3.  LORazepam 0.5 mg SL Q8H:PRN anxiety  
RX *lorazepam 2 mg/mL 0.25 ml by mouth q6h prn Refills:*0 
4.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Third Line  

5.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 1 mg 
PO Q4H:PRN resp distress 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 2 mg by mouth 
q4hrs prn Refills:*0 
6.  Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Severe 
RX *morphine 15 mg 0.25 tablet(s) by mouth q6hrs prn Disp #*4 
Tablet Refills:*0 
7.  Sodium Chloride 3% Inhalation Soln 15 mL NEB BID:PRN break 
up sputum 
RX *sodium chloride 3 % 1 pkg inh BID PRN Disp #*14 Vial 
Refills:*0 
8.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
9.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
10.  budesonide 90 mcg/actuation inhalation TID  
11.  Docusate Sodium 100 mg PO BID  
12.  Furosemide 80 mg PO DAILY  
13.  Gabapentin 300 mg PO BID  
14.  ketotifen fumarate (bulk) 1 drop each eye BID  
15.  Mirtazapine 15 mg PO QHS  
16.  Omeprazole 40 mg PO DAILY  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
18.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q2H:PRN wheezing  
19.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Acute cholecystitis
Afib
acute on chronic ___
CAD
Hospice care 

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with an infection of your gall 
bladder. We treated you with antibiotics. You and your family 
talked with the surgeons and felt that the risks of surgery to 
remove your gallbladder or placement of a gallbladder drain 
outweighed the benefits. The infection appears to have improved 
with antibiotics alone - which can continued indefinitely or 
until your follow up with your primary care doctor.  

During this hospitalization, you were also noted to be in 
significant heart failure.  For this reason, you were given 
medications to help you urinate the extra fluid.  There were 
periods where the sodium decreased during this time, but your 
sodium has improved.

You will assisted at home with the hospice service. We have 
discontinued all non essential medications for you. We have 
written you a prescription for immediate release morphine 
tablets because our pharmacy could not fill the prescription we 
planned to send you with. Hospice will Fed-ex the proper 
morphine dose to your house tomorrow. In the meantime, if you 
need to treat pain, split the pill into 4ths and give ___ of 
those pieces for pain. 

Again, it was a pleasure looking after you and we wish you well.

Your ___ Team 
 
Followup Instructions:
___